US06635640B2
CH2Cl2 (1.22 g, 1.5 mmol) was added to a mixture of 4-bromoindole (9.80 g, 50 mmol), bis(pinacolato)diboron (13.97 g, 55 mmol), and potassium acetate (14.72 g, 150 mmol) in DMSO (200 mL). The system was degassed, and then purged three times with nitrogen. The mixture was stirred at 80° C. in an oil bath under nitrogen for 22 hours. It was then cooled to room temperature and poured into water (1 L). The aqueous mixture was extracted with three portions of ethyl acetate. The combined extracts were washed five times with brine to remove DMSO and then dried over anhydrous Na2SO4. The residue was purified on a silica gel column, eluting with EtOAc-hexane (9:1), to give 8.01 g (66%) of 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole.

reactant | CH2Cl2 | 1.5 mmol, 1.22 g | C(Cl)Cl | CH2Cl2
reactant | 4-bromoindole | 50 mmol, 9.80 g | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | bis(pinacolato)diboron | 55 mmol, 13.97 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 150 mmol, 14.72 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 200 mL | CS(=O)C | C2H6OS
product | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | 8.01 g, 66% | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC=C1)C | C14H18BNO2
